US06573252B1
Preparation of the 5-tert-Butyloxy-carbonylamino-2-hydroxy-benzoic-(4-bromo-butyl) Ester Acid
To a solution of 5-tertbutyloxy-carbonylamino-2-hydroxy-benzoic acid (20 g, 85.7 mmoles) in tetrahydrofuran (200 ml) triphenylphosphine (44.9 g, 171 mmoles) and lastly carbon tetrabromide (56.7 g, 171 mmoles) are added. The reaction mixture is left under stirring at room temperature for 24 hours and then evaporated under vacuum. The obtained residue is purified by silica gel column chromatography (eluent: n.-hexane/ethyl acetate 8/2 vol./vol.), monitoring the content of the collected fractions by chromatography on thin layer. The product is obtained by collecting the head fractions, after elution from the column of the CBr4 reactive used in the synthesis. The fractions are collected and dried. A white solid (21.16 mg) having m.p. 108°-111° C. is recovered.

reactant | 5-tertbutyloxy-carbonylamino-2-hydroxy-benzoic acid | 85.7 mmoles, 20 g | C(C)(C)(C)OC=1C=C(C(=C(C(=O)O)C1)O)N=C=O | C12H13NO5
reactant | tetrahydrofuran | 171 mmoles, 200 ml, 44.9 g | O1CCCC1 | C4H8O
reactant | carbon tetrabromide | 171 mmoles, 56.7 g | C(Br)(Br)(Br)Br | CBr4
product | 5-tert-Butyloxy-carbonylamino-2-hydroxy-benzoic-(4-bromo-butyl) Ester | BrCCCCOC(C1=C(C(=CC(=C1)OC(C)(C)C)N=C=O)O)=O | C16H20BrNO5
